US07495103B2
A solution of Boc2O (123 mg, 0.565 mmol) in 1,4-dioxane (10 mL) was added over a period of 30 min. to a solution of 4-aminomethyl-2′-ethoxy-biphenyl-2-ylamine (274 mg, 1.13 mmol) in 1,4-dioxane (10 mL). The reaction mixture was stirred at room temperature for 16 h. The volatiles were removed on a rotary evaporator. The residue was purified by flash chromatography (silica gel, EtOAc-CH2Cl2, 1:4) to afford (2-Amino-2′-ethoxy-biphenyl-4-ylmethyl)carbamic acid tert-butyl ester (E-1) as a pale yellow oil (119 mg, 31%). 1H NMR (300 MHz, DMSO-d6) δ 7.27 (m, 2H), 7.07 (dd, J=7.2 Hz, J=1.8 Hz, 1H), 7.03 (d, J=7.8 Hz, 1H), 6.95 (dt, J=7.2 Hz, J=0.9 Hz, 1H), 6.81 (d, J=7.5 Hz, 1H), 6.55 (s, 1H), 6.45 (dd, J=7.8 Hz, J=1.5 Hz, 1H), 4.47 (s, 2H), 4.00 (q, J=7.2 Hz, 2H), 1.38 (s, 9H), 1.20 (t, J=7.2 Hz, 3H); HPLC ret. time 2.34 min, 10-100% CH3CN, 5 min gradient; ESI-MS 343.1 m/z (MH+).

reactant | Boc2O | 0.565 mmol, 123 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-aminomethyl-2′-ethoxy-biphenyl-2-ylamine | 1.13 mmol, 274 mg | NCC1=CC(=C(C=C1)C1=C(C=CC=C1)OCC)N | C15H18N2O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (2-Amino-2′-ethoxy-biphenyl-4-ylmethyl)carbamic acid tert-butyl ester | 119 mg, 31% | C(C)(C)(C)OC(NCC1=CC(=C(C=C1)C1=C(C=CC=C1)OCC)N)=O | C20H26N2O3
